US05472933
3-[[(1,1-Dimethylethyl)amino]sulfonyl]-N,N,1-trimethyl-1H-pyrrole-2-carboxamide
To a solution of 6.48 g (30 mmol) of N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide in 150 mL THF under a nitrogen atmosphere cooled to -78° C. was added dropwise, at such a rate as to keep the temperature below -60° C., 25 mL (61.5 mmol) 2.46M n-butyllithium in hexanes. The reaction mixture was stirred at -78° C. for ca. 30 minutes. To the reaction mixture was added dropwise a solution of 3.1 mL (33 mmol) of N,N-dimethylcarbamyl chloride in 10 mL of THF at such a rate as to maintain the temperature below -65° C. The reaction mixture was allowed to warm to room temperature and stir for ca. 1.5 hours. The reaction mixture was cooled to ca. 5° C. and 60 mL of 50% ammonium chloride solution was added. The reaction mixture was stirred for ca. 15 minutes. The pH was adjusted to ca. 3 with 1N HCl (ca. 30 mL), and the aqueous phase was separated from the THF phase and extracted with ethyl acetate. The combined THF and ethyl acetate extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to an oil. The oil was chromatographed on silica with (20% ethyl acetate/80% n-butyl chloride) affording 4.33 g of the title compound as a pale yellow solid. 1H NMR(CDCl3, 200 MHz.) δ: 6.61(d,1H), 6.46(d,1H), 4.62(bs,1H), 3.59(s,3H), 3.1(s,3H), 2.95(s,3H), 1.24(s,9H).

reactant | N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide | 30 mmol, 6.48 g | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)C | C9H16N2O2S
reactant | n-butyllithium | 61.5 mmol, 2.46M, 25 mL | C(CCC)[Li]
reactant | N,N-dimethylcarbamyl chloride | 33 mmol, 3.1 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | ammonium chloride | 60 mL | [Cl-].[NH4+]
reactant | HCl | 1N, ca. 30 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[[(1,1-Dimethylethyl)amino]sulfonyl]-N,N,1-trimethyl-1H-pyrrole-2-carboxamide | 4.33 g | CC(C)(C)NS(=O)(=O)C1=C(N(C=C1)C)C(=O)N(C)C | C12H21N3O3S
